US04894091
Using the procedure of example 12 33.4 g of mercaptobenzothiazole, 6 g of paraformaldehyde, 31.8 g of 8-hydroxyquinaldine and 2 ml of dibutylamine are reacted to give 64 g of 3-(2-methyl-8-hydroxyquinolin-7-ylmethyl)-benzothiazole-2-thione (compound No. 60) melting at 211°-215°.

reactant | mercaptobenzothiazole | 33.4 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | paraformaldehyde | 6 g | C=O | CH2O
reactant | 8-hydroxyquinaldine | 31.8 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | dibutylamine | 2 ml | C(CCC)NCCCC | C8H19N
product | 3-(2-methyl-8-hydroxyquinolin-7-ylmethyl)-benzothiazole-2-thione | 64 g | CC1=NC2=C(C(=CC=C2C=C1)CN1C(SC2=C1C=CC=C2)=S)O | C18H14N2OS2
